US06048896
(E)-4-(3'-chloro-4'-methoxyphenyl)-4-oxo-2-butenoic acid;
(E)-4-(3'-fluoro-4'-methoxyphenyl)-4-oxo-2-butenoic acid, and 2,3-dimethyl-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoic acid.

reactant | (E)-4-(3'-fluoro-4'-methoxyphenyl)-4-oxo-2-butenoic acid | FC=1C=C(C=CC1OC)C(/C=C/C(=O)O)=O | C11H9FO4
reactant | 2,3-dimethyl-4-(3',4'-dichlorophenyl)-4-oxo-2-butenoic acid | CC(C(=O)O)=C(C(=O)C1=CC(=C(C=C1)Cl)Cl)C | C12H10Cl2O3
product | (E)-4-(3'-chloro-4'-methoxyphenyl)-4-oxo-2-butenoic acid | ClC=1C=C(C=CC1OC)C(/C=C/C(=O)O)=O | C11H9ClO4
